US03963732
100 g. 4-hydroxyphenyl-4-sulphoxyphenyl-(2-pyridyl)-methane sodium salt were treated with 400 ml. acetic anhydride and 100 g. anhydrous sodium acetate under conditions similar to those described in Example 4. The reaction mixture was filtered and the filtrate was concentrated at a reduced temperature and under reduced pressure. By subsequently adding excess diethyl ether, there was obtained a crystalline solid which was further purified with appropriate mixtures of ethanol and diethyl ether. A high yield of pure 4-acetoxyphenyl-4-sulphoxyphenyl-(2pyridyl)-methane sodium salt was thus obtained in the form of colourless crystals which melted at 142° - 143°C.

reactant | 4-hydroxyphenyl-4-sulphoxyphenyl-(2-pyridyl)-methane sodium salt | [Na].OC1=CC=C(C=C1)C(C1=NC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-acetoxyphenyl-4-sulphoxyphenyl-(2pyridyl)-methane sodium salt | [Na].C(C)(=O)OC1=CC=C(C=C1)C(C1=NC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)O | InChI=1S/C20H17NO6S.Na/c1-14(22)26-17-9-5-15(6-10-17)20(19-4-2-3-13-21-19)16-7-11-18(12-8-16)27-28(23,24)25;/h2-13,20H,1H3,(H,23,24,25);
